US07622469B2
3,6-Dihydro-6,6-dimethyl-4-nonylamino-2-(4′-methoxyphenethylamino)-1,3,5-triazine hydrochloride
100 ml of methanol, 40 ml of acetone and 0.2 ml of concentrated hydrochloric acid were added to 2.0 g (4.6 mmol) of N1-(4-methoxyphenethyl)-N5-nonyl-biguanide dihydrochloride, and the mixture was refluxed for 20 hours. The solvent was distilled off under reduced pressure to give a residue, which was dissolved in hydrous ethanol. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform/methanol/acetic acid (8:0.7:0.7)) to obtain 1.2 g of a colorless resinous solid.

reactant | methanol | 100 ml | CO | CH4O
reactant | acetone | 40 ml | CC(=O)C | C3H6O
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | N1-(4-methoxyphenethyl)-N5-nonyl-biguanide dihydrochloride | 4.6 mmol, 2.0 g | Cl.Cl.COC1=CC=C(CCNC(=N)NC(=N)NCCCCCCCCC)C=C1
solvent | ethanol | C(C)O | C2H6O
product | 3,6-Dihydro-6,6-dimethyl-4-nonylamino-2-(4′-methoxyphenethylamino)-1,3,5-triazine hydrochloride | 1.2 g | Cl.CC1(N=C(NC(=N1)NCCC1=CC=C(C=C1)OC)NCCCCCCCCC)C | InChI=1S/C23H39N5O.ClH/c1-5-6-7-8-9-10-11-17-24-21-26-22(28-23(2,3)27-21)25-18-16-19-12-14-20(29-4)15-13-19;/h12-15H,5-11,16-18H2,1-4H3,(H3,24,25,26,27,28);1H
